.subckt NOR3x1 A B C Y VDD VSS

XM01 N1 A VDD VDD sky130_fd_pr__pfet_01v8
+ l=0.15 w=8.8
+ as=2.64 ad=2.64
+ ps=18.20 pd=18.20

XM02 N2 B N1 N1 sky130_fd_pr__pfet_01v8
+ l=0.15 w=8.8
+ as=2.64 ad=2.64
+ ps=18.20 pd=18.20

XM03 Y C N2 N2 sky130_fd_pr__pfet_01v8
+ l=0.15 w=8.8
+ as=2.64 ad=2.64
+ ps=18.20 pd=18.20

XM04 Y A VSS VSS sky130_fd_pr__nfet_01v8
+ l=0.15 w=1.92
+ as=0.576 ad=0.576
+ ps=4.44 pd=4.44

XM05 Y B VSS VSS sky130_fd_pr__nfet_01v8
+ l=0.15 w=1.92
+ as=0.576 ad=0.576
+ ps=4.44 pd=4.44

XM06 Y C VSS VSS sky130_fd_pr__nfet_01v8
+ l=0.15 w=1.92
+ as=0.576 ad=0.576
+ ps=4.44 pd=4.44

.ends NOR3x1
